US06087380
2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 9 from 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 82% of theory, C26H25N5O3S (487.58) Rf value: 0.21 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =488

reactant | 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C#N)C1)CC(=O)OCC | C26H22N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride | Yield: 82% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CC(=O)OCC | InChI=1S/C26H25N5O3S.ClH/c1-2-34-24(32)16-31(20-6-4-3-5-7-20)26(33)18-10-13-22-21(14-18)30-23(35-22)15-29-19-11-8-17(9-12-19)25(27)28;/h3-14,29H,2,15-16H2,1H3,(H3,27,28);1H
